US07985753B2
6-Bromo-1-methyl-3,4-dihydro-isoquinoline
In close analogy to the procedure described above, N-[2-(3-bromo-phenyl)-ethyl]-acetamide is reacted with phosphorus pentoxide to provide the title compound.

reactant | N-[2-(3-bromo-phenyl)-ethyl]-acetamide | BrC=1C=C(C=CC1)CCNC(C)=O | C10H12BrNO
reactant | phosphorus pentoxide | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
product | 6-Bromo-1-methyl-3,4-dihydro-isoquinoline | BrC=1C=C2CCN=C(C2=CC1)C | C10H10BrN
